US07658979B2
Synthesis of 2-chloro-4-hydroxy-benzoic acid 4-(4-pentyl-phenoxycarbonyl)-phenyl ester
2.5 g (4.7 mmol) of 4-benzyloxy-2-chloro-benzoic acid 4-(4-pentyl-phenoxycarbonyl)-phenyl ester, 20 mL of cyclohexane and 0.13 g of palladium hydroxide/carbon were added to 25 mL of dehydrated ethanol and refluxed for 12 hours in the presence of argon. The resulting reaction mixture was filtered and the filtrate was concentrated. The residue was recrystallized from hexane/ethyl acetate to obtain 1.65 g of a white solid.

reactant | 4-benzyloxy-2-chloro-benzoic acid 4-(4-pentyl-phenoxycarbonyl)-phenyl ester | 4.7 mmol, 2.5 g | C(CCCC)C1=CC=C(OC(=O)C2=CC=C(C=C2)OC(C2=C(C=C(C=C2)OCC2=CC=CC=C2)Cl)=O)C=C1 | C32H29ClO5
reactant | cyclohexane | 20 mL | C1CCCCC1 | C6H12
catalyst | palladium hydroxide/carbon | 0.13 g | [OH-].[OH-].[Pd+2]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-chloro-4-hydroxy-benzoic acid 4-(4-pentyl-phenoxycarbonyl)-phenyl ester | 1.65 g | C(CCCC)C1=CC=C(OC(=O)C2=CC=C(C=C2)OC(C2=C(C=C(C=C2)O)Cl)=O)C=C1 | C25H23ClO5
